US08981084B2
2-(1-Methylpiperazin-2-yl)-4-phenylthiazole
This compound was synthesized from tert-butyl 4-methyl-3-(4-phenylthiazol-2-yl)piperazine-1-carboxylate as described for example 46 step 4 (50 mg, crude) as a trifluoroacetate salt and it was taken as such for the next step. MS (ESI) m/z: Calculated for C14H17N3S: 259.11. found: 260.2 (M+H)+

reactant | tert-butyl 4-methyl-3-(4-phenylthiazol-2-yl)piperazine-1-carboxylate | CN1C(CN(CC1)C(=O)OC(C)(C)C)C=1SC=C(N1)C1=CC=CC=C1 | C19H25N3O2S
reactant | trifluoroacetate | FC(C(=O)[O-])(F)F
product | 2-(1-Methylpiperazin-2-yl)-4-phenylthiazole | CN1C(CNCC1)C=1SC=C(N1)C1=CC=CC=C1 | C14H17N3S
